US06022884
Step A: 2-(4-Chloro-2-methyl-phenoxy)-3-methyl-5-nitropyridine
Sodium hydride (60% in mineral oil, 1.08 g, 27 mmol) was washed 3× with hexanes then a solution of 4-chloro-2-methylphenol (3.50 g, 24.5 mmol) dissolved in tetrahydrofuran (40 mL) was added. The solution was stirred for 20 minutes then 2-chloro-3-methyl-5-nitropyridine (4.02 g, 23.3 mmol) was added and the reaction mixture was heated to reflux for 3 hours. After cooling, the mixture was concentrated in vacuo then dissolved in ethyl acetate and washed with water, 3× with saturated NaHCO3 and saturated NaCl then dried over Na2SO4 and concentrated in vacuo.

reactant | Sodium hydride | 27 mmol, 1.08 g | [H-].[Na+]
reactant | 4-chloro-2-methylphenol | 24.5 mmol, 3.50 g | ClC1=CC(=C(C=C1)O)C | C7H7ClO
reactant | 2-chloro-3-methyl-5-nitropyridine | 23.3 mmol, 4.02 g | ClC1=NC=C(C=C1C)[N+](=O)[O-] | C6H5ClN2O2
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 2-(4-Chloro-2-methyl-phenoxy)-3-methyl-5-nitropyridine | ClC1=CC(=C(OC2=NC=C(C=C2C)[N+](=O)[O-])C=C1)C | C13H11ClN2O3
